US05750520
4-Methyl-1-[N-(1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester
A solution of sodium carbonate (2.83 g, 26.7 mmol) in water (20 ml) was added to a stirred solution of 4-methyl-1-[N-(2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester (Preparation 36; 3.38 g, 5.34 mmol) in ethanol (20 ml) and the resulting suspension stirred for 20 hours. The bulk of the ethanol was removed under reduced pressure, the residual mixture diluted with water and extraction with ethyl acetate effected. The organic extract was washed with water, then saturated brine, dried (MgSO4) and evaporated under reduced pressure to afford the title compound (2.29 g) as a foam. Rf 0.42 (SS 9). [α]D25 +14° (c=0.1, CH3OH). Found: C,61.60; H,6.06; N,10.10. C28H32N4O5S; 0.50 H2O requires C,61.63; H,6.09; N,10.26%.

reactant | sodium carbonate | 26.7 mmol, 2.83 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-1-[N-(2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester | 5.34 mmol, 3.38 g | C(C)OC(=O)[C@@H]1N(CC=C(C1)C)C([C@@H](NS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O)CC1=CC(=CC=C1)C#N)=O | C30H31F3N4O6S
solvent | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-Methyl-1-[N-(1,2,3,4-tetrahydroisoquinoline-7-sulphonyl)-3-cyano-(S)-phenylalanyl]-1,2,3,6-tetrahydropyridine-2(R)-carboxylic acid ethyl ester | 2.29 g | C(C)OC(=O)[C@@H]1N(CC=C(C1)C)C([C@@H](NS(=O)(=O)C1=CC=C2CCNCC2=C1)CC1=CC(=CC=C1)C#N)=O | C28H32N4O5S
